US04554100
Benzyloxycarbonylalanyl-alanyl Proline Ethylamide
11 grams of N,N-dicyclohexylcarbodiimide was added to a solution of 14.7 grams of benzyloxycarbonylalanyl alanine in 100 ml of dimethylformamide and 7.6 g of proline ethylamine (prepared from the corresponding benzyloxycarbonyl derivative) cooled to -5 degrees C. and the reaction mixture treated by conventional techniques. 10.6 g of product having a melting point of 139 to 140 degrees C. was obtained. [α]D20 -46.5 degrees (c 0.3; dimethylformamide).

reactant | benzyloxycarbonylalanyl alanine | 14.7 grams | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C14H18N2O5
reactant | proline ethylamine | 7.6 g | C(C)N.N1[C@H](C(=O)O)CCC1
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonylalanyl-alanyl Proline Ethylamide | C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)C)=O)=O | C21H30N4O5
